US08975254B2
5-(4-Acetylpiperazine-1-carbonyl)-2H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide
The title compound was prepared as in Example 1 starting from 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid and 1-acetylpiperazine. The crude product was triturated in CH2Cl2 at room temperature to afford the product. 1H NMR (400 MHz, CDCl3): 2.15 (3H, s), 3.01 (2H, t), 3.58 (2H, m), 3.72 (2H, m), 3.78 (2H, q), 3.84 (4H, m), 6.21 (1H, d), 6.59 (1H, d), 7.04 (1H, s), about 7.28 (1H, broad s), 7.41 (2H, m), 7.74 (1H, s), 11.35 (1H, broad s).

reactant | 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C(=O)O | C17H13Cl2N3O4
reactant | 1-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 5-(4-Acetylpiperazine-1-carbonyl)-2H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C=1NN=C(C1)C(=O)N1CCN(CC1)C(C)=O | C23H23Cl2N5O4
